US08486970B2
To a mixture of 659 mg of 1-(chloromethyl)-4-(methylsulfonyl)benzene and 10 ml of DMSO were added 525 mg of N-hydroxyphthalimide and 445 mg of potassium carbonate, followed by stirring at 50° C. for 2 hours. The reaction solution was cooled, water was then added thereto, and the precipitated crystal was collected by filtration to obtain 685 mg of 2-{[4-(methylsulfonyl)benzyl]oxy}-1H-isoindole-1,3(2H)-dione as a white solid.

reactant | 1-(chloromethyl)-4-(methylsulfonyl)benzene | 659 mg | ClCC1=CC=C(C=C1)S(=O)(=O)C | C8H9ClO2S
reactant | DMSO | 10 ml | CS(=O)C | C2H6OS
reactant | N-hydroxyphthalimide | 525 mg | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | potassium carbonate | 445 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 2-{[4-(methylsulfonyl)benzyl]oxy}-1H-isoindole-1,3(2H)-dione | 685 mg | CS(=O)(=O)C1=CC=C(CON2C(C3=CC=CC=C3C2=O)=O)C=C1 | C16H13NO5S
